US08080552B2
ii) 1-(2-Chloro-5-trifluoromethyl-phenyl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
105 mg (0.65 mmol) 1,1′-Carbonyl-diimidazol (CDI) was given to a solution of 115 mg (0.59 mmol) 2-chloro-5-(trifluoromethyl)aniline in 4.0 ml dichloromethane. After stirring for 12 h at r.t. a solution of 220 mg (0.59 mmol) [4-(4-Amino-phenoxy)-pyrimidin-2-yl]-(3-trimethylsilanyloxy-propyl)-amine in 6 ml dichloromethane within 30 min. was added and the mixture stirred for 5 d at r.t. A solution of 1.4 ml (1.4 mmol) 1 M tetrabutylammonium fluoride in THF was given to the mixture and stirring continued for 12 h. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (dichloromethane/ethanol 96:4). Yield: 6 mg (2%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 0.65 mmol, 105 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-chloro-5-(trifluoromethyl)aniline | 0.59 mmol, 115 mg | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | [4-(4-Amino-phenoxy)-pyrimidin-2-yl]-(3-trimethylsilanyloxy-propyl)-amine | 0.59 mmol, 220 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO[Si](C)(C)C)C=C1 | C16H24N4O2Si
reactant | tetrabutylammonium fluoride | 1.4 mmol, 1 M, 1.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-Chloro-5-trifluoromethyl-phenyl)-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | ClC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO | C21H19ClF3N5O3
